Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
abdominal pain, found to have pericardial effusion
 
Major Surgical or Invasive Procedure:
pericardiocentesis
intubation
bronchoscopy
 
History of Present Illness:
This is a ___ yoM with a PMH significant for developmental mental 
delay, seizure disorder, and blindness who is being admitted to 
the CCU following pericardial drainage for a moderate to large 
pericardial effusion.

He lives ___ a group home and he has been complaining of 
abdominal pain for about a week. He went to his PCP ___ ___, who 
was unable to examine him due to agitation. He then went to 
___ ED on ___ with the same complaints and his vitals at 
the time were Afebrile, HR 110s-120s, SBP 130s, 91% RA. He was 
acutely agitated and required Haldol 5 mg IM, Haldol 5 mg IV, 
Ativan 2 mg IM, and dilaudid 0.5 mg IV. He then got a CT abdomen 
to evaluate his abdominal pain and it showed a moderate to large 
pericardial effusion, small bilateral pleural effusions, and no 
significant intra-abdominal process. He then received a bedside 
echocardiogram that showed RV collapse, he was given 2 L NS, and 
he was transferred to BID ED. ___ the ED here, his BP was 
143/104, HR 128, RR 24, and 93% room air. Labs significant for 
wbc 10.8 (72% poly, 14% lymph), hgb 9.2, INR 1.3, K 5.7, Cr 0.8. 
An echocardiogram ___ the ED showed the IVC was non-collapsible, 
but the RA was not invaginating with diastole. EKG showed NSR, 
tachycardia, with PR depression ___ I/II, elevation ___ AVR, 
decreased voltages, no electrical alternans. He was acutely 
agitated and required intubation (fentanyl, versed). He was then 
taken to the cath lab to have a pericardial drain placed, but 
prior to the procedure his pulse was nonpalpable with a dropping 
BP, and he required 20 seconds of chest compressions with ROSC. 
He then received a pericardial drain without complications and 
~400 mL of bloody fluid was drained. He only received about 300 
mL of IVF ___ the cath lab.

On arrival to the CCU: T 98.8, BP 98/64, HR 103, on 
volume-controlled CMV with FiO2 50%, PEEP 5, set RR 20, set Vt 
400 mL, 93% saturation. He is on fentanyl and versed gtt. 

 
Past Medical History:
Blindness
Mental delay
Seizure disorder
 
Social History:
___
Family History:
Unknown

 
Physical Exam:
ADMISSION:
==========
Vitals: T 98.8, BP 98/64, HR 103, on volume-controlled CMV with 
FiO2 50%, PEEP 5, set RR 20, set Vt 400 mL, 93% saturation. He 
is on fentanyl and versed gtt. 
GENERAL: Intubated and sedated, ET tube ___ place
HEENT: Normocephalic atraumatic. 
NECK: Supple. No appreciable JVP, but difficult to tell.
CARDIAC: Tachycardia, normal S1, S2, no m,r,g 
LUNGS: Mechanical breath sounds bilaterally, no appreciable 
rales
ABDOMEN: Distended, but soft without masses
EXTREMITIES: Cool arms, non-pitting edema ___ bilateral lower 
extremities up to mid tibia.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.
ACCESS: Left AC 18 and right AC 20.

DISCHARGE:
==========
Pertinent physical:  
GENERAL: NAD, awake  
HEENT: Normocephalic atraumatic.  
NECK: Supple. No appreciable JVP, but difficult to tell.  
CARDIAC: Tachycardia, normal S1, S2, no m,r,g  
LUNGS: Slight rales bilateral bases, poor effort  
ABDOMEN: Distended, but soft without masses, NTTP  
EXTREMITIES: No pedal edema  
SKIN: Rashes from EKG leads on chest.  
PULSES: Distal pulses palpable and symmetric.  
ACCESS: None  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:00PM BLOOD WBC-10.8* RBC-3.66* Hgb-9.2* Hct-30.0* 
MCV-82 MCH-25.1* MCHC-30.7* RDW-15.2 RDWSD-45.4 Plt ___
___ 09:00PM BLOOD Neuts-72.4* Lymphs-14.9* Monos-11.5 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-7.84* AbsLymp-1.61 
AbsMono-1.25* AbsEos-0.03* AbsBaso-0.03
___ 09:00PM BLOOD Plt ___
___ 09:00PM BLOOD ___ PTT-27.7 ___
___ 09:00PM BLOOD Glucose-123* UreaN-17 Creat-0.8 Na-136 
K-5.7* Cl-102 HCO3-22 AnGap-18
___ 10:45PM BLOOD CK(CPK)-258
___ 04:54AM BLOOD ALT-54* AST-27 AlkPhos-95 TotBili-0.5
___ 09:00PM BLOOD cTropnT-<0.01
___ 10:45PM BLOOD Calcium-7.8* Phos-4.3 Mg-2.2
___ 10:45PM BLOOD TSH-7.4*
___ 09:11PM BLOOD ___ pO2-47* pCO2-47* pH-7.32* 
calTCO2-25 Base XS--2 Intubat-INTUBATED Comment-PERIPHERAL
___ 09:11PM BLOOD Lactate-2.1*
___ 09:11PM BLOOD O2 Sat-77
___ 11:55PM BLOOD freeCa-1.02*
___ 09:59PM BLOOD SED RATE-Test      

___
CYTOLOGY REPORT - Final
SPECIMEN(S) SUBMITTED: PERICARDIAL FLUID
DIAGNOSIS:
PERICARDIAL FLUID:
NEGATIVE FOR MALIGNANT CELLS.

OTHER PERTINENT LABS:
=====================
___ 06:29PM BLOOD WBC-11.5* RBC-3.92* Hgb-9.8* Hct-31.1* 
MCV-79* MCH-25.0* MCHC-31.5* RDW-15.1 RDWSD-43.6 Plt ___
___ 05:08AM BLOOD WBC-9.3 RBC-3.47* Hgb-8.6* Hct-27.9* 
MCV-80* MCH-24.8* MCHC-30.8* RDW-14.9 RDWSD-43.6 Plt ___
___ 04:54AM BLOOD Glucose-64* UreaN-15 Creat-0.8 Na-139 
K-4.3 Cl-99 HCO3-26 AnGap-18
___ 06:29PM BLOOD calTIBC-264 VitB12-683 Folate-18.9 
Hapto-474* Ferritn-457* TRF-203
___ 04:44PM BLOOD calTIBC-234* VitB12-1087* Folate->20 
Ferritn-529* TRF-180*
___ 06:29PM BLOOD T4-4.5* T3-67*
___ 06:38AM BLOOD Free T4-1.1
___ 04:44PM BLOOD Free T4-0.9*
___ 09:28AM BLOOD ANCA-NEGATIVE B
___ 06:29PM BLOOD RheuFac-15* CRP->300.0*
___ 09:59PM BLOOD ___
___ 06:38AM BLOOD CRP-327.1*
___ 09:28AM BLOOD IgG-1087
___ 02:56AM BLOOD C3-180 C4-27
___ 09:28AM BLOOD HIV Ab-Negative
___ 05:21AM BLOOD Type-ART pO2-98 pCO2-51* pH-7.41 
calTCO2-33* Base XS-5 Intubat-INTUBATED
___ 02:30PM BLOOD Type-ART FiO2-40 pO2-93 pCO2-57* pH-7.41 
calTCO2-37* Base XS-8
___ 12:20PM BLOOD Lactate-1.5

___
Page 1 of 2
CYTOLOGY REPORT - Final
SPECIMEN(S) SUBMITTED: PERICARDIAL FLUID, Collected @ 16:45
DIAGNOSIS:
PERICARDIAL FLUID:
NEGATIVE FOR MALIGNANT CELLS.
Blood only.

___
CYTOLOGY REPORT - Final
SPECIMEN(S) SUBMITTED: BRONCHIAL LAVAGE
DIAGNOSIS:
BRONCHIAL LAVAGE:
NEGATIVE FOR MALIGNANT CELLS.
Bronchial epithelial cells and pulmonary macrophages ___ a 
background of numerous inflammatory
cells including neutrophils, histiocytes and lymphocytes.

MICROBIOLOGY:
=============
___ 10:06 pm FLUID,OTHER
      r/o coxsackievirus (types A and B) . 

   Enterovirus Culture (Final ___:    No Enterovirus 
isolated. 

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): 
      No Cytomegalovirus (CMV) isolated. 

   CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) (Final 
___: 
      Negative for Cytomegalovirus early antigen by 
immunofluorescence. 
      Refer to culture results for further information. 

FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED

___ 6:25 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      GEMELLA SPECIES.    PRESUMPTIVE IDENTIFICATION. 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
___. 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

___ 9:46 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 9:46 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, ___
      infected patients the excretion of antigen ___ urine may 
vary. 

___ 9:46 pm SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CHAINS. 

   RESPIRATORY CULTURE (Final ___: 
      HEAVY GROWTH Commensal Respiratory Flora. 

___ 8:42 am BRONCHOALVEOLAR LAVAGE      BRONCHIAL LAVAGE. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


___ 8:42 am BRONCHIAL WASHINGS      BRONCHIAL WASH. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

   NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED.

___ 8:42 am Rapid Respiratory Viral Screen & Culture
      BRONCHIAL WASH . 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Less than 60 columnar epithelial cells;. 
      Inadequate specimen for DFA detection of respiratory 
viruses.. 
      Interpret all negative DFA and/or culture results from 
this specimen
      with caution.. 
      Negative results should not be used to discontinue 
precautions.. 
      Recommend new sample be submitted for confirmation.. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
      Reported to and read back by ___ ___ ___ AT 
14:44.

___ 2:30 pm Immunology (CMV)      Source: Line-a. 

                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use ___ the ___ patient 
population. 

___ 8:38 am PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

Blood Cultures (___): No growth 
final

Urine Cultures (___): No growth final

IMAGING:
========
TTE ___:
  The left atrium is normal ___ size. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). The right ventricular cavity is 
unusually small. with normal free wall contractility. There is a 
large pericardial effusion. The effusion appears 
circumferential. Stranding is visualized within the pericardial 
space c/w organization. The pericardium appears thickened. There 
are no echocardiographic signs of tamponade. No right atrial or 
right ventricular diastolic collapse is seen. 
  IMPRESSION: Large circumferential pericardial effusion. 
Thickened parietal pericardium. No echocardiographic evidence of 
tamponade. Normal LV function. Small RV cavity size with normal 
function.  

CXR (AP Portable) ___:
IMPRESSION:
Evidence for bilateral pleural effusions and consolidation or 
atelectasis ___ the left lower lobe.  Prominent cardiac 
silhouette. 

TTE ___:
  Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF>55%). Right ventricular 
systolic function is significantly depressed. The apical The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis. There is a 
small-moderate sized pericardial effusion ___ the apical views 
the fluid is all echodense and there does appear to be tagging 
of the RV wall to the pericardium raising question of 
constriction. ___ those views the effusion is small, all < 1.0cm, 
and the fluid is echodense. The subcostal windows are quite 
limited, but the posterolateral pocket may be a little bigger 
there measuring up to 1.3cm. It is hard to make out whether any 
of that fluid is simple, but I suspect it is also echodense like 
the rest of the pericardial fluid. There are no 
echocardiographic signs of tamponade. 
 IMPRESSION: Small to moderate sized echodense circumferential 
pericardial effusion. Pleural effusion. No 2D echo evidence of 
tamponade. Depressed global right ventricular systolic function. 

 The images and the report from ___ are not available for 
review

CTA Chest ___:
IMPRESSION:  
1.  No evidence of pulmonary embolism within limitations of the 
study limited by patient motion. 
2.  There is a large nonhemorrhagic pericardial effusion with 
pericardial 
drain ___ place. There is associated leftward interventricular 
septal bowing  and contrast reflux into the hepatic veins 
suggestive of right ventricular strain. 
3.  Bilateral nonhemorrhagic pleural effusions are larger 
compared to ___. 
4.  Bilateral compressive atelectasis with collapse of the left 
lower lobe and posterior basal segment of the right lower lobe.  
There is also linear atelectasis ___ the left upper lobe. 

CXR (AP Portable) ___:
IMPRESSION: 
1. Central pulmonary vascular congestion with new mild edema 
since the ___ examination. 
2. The lung volumes remain low.  Unchanged pleural effusions and 
bibasilar 
atelectasis. 

CT Chest w/ Contrast ___:
IMPRESSION:  
Decrease ___ size of pericardial effusion. 
Extensive mediastinal lymphadenopathy is unchanged, the lymph 
nodes are borderline,  likely reactive.  
Large bilateral layering pleural effusions associated with 
adjacent atelectasis are stable. 
No definitive new lung abnormalities are detected. 

TTE ___:
  Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Left ventricular systolic 
function is hyperdynamic (EF = 75%). Right ventricular chamber 
size and free wall motion are normal. There is a moderate sized 
pericardial effusion. The effusion appears circumferential. The 
effusion is echo dense, consistent with blood, inflammation or 
other cellular elements. There are no echocardiographic signs of 
tamponade. However, ___ the presence of a non-free-flowing 
pericardial effusion, these signs may be absent despite 
impairment of right ventricular filling.
 Compared with the prior study (images reviewed) of ___ 
the pericardial effusion is larger.  

TTE ___: 
  Left ventricular wall thickness, cavity size, and global 
systolic function are normal (LVEF>55%). There is a small to 
moderate sized pericardial effusion. The effusion appears 
circumferential. The effusion is echo dense, consistent with 
blood, inflammation or other cellular elements. There are no 
echocardiographic signs of tamponade. However, there is 
significant, accentuated respiratory variation ___ 
mitral/tricuspid valve inflows, consistent with impaired 
ventricular filling. 
 Compared with the prior study (images reviewed) of ___ 
the effusion appears smaller.  

CXR ___:
IMPRESSION:  
Compared to chest radiographs ___ through ___. 
Previous pulmonary vascular congestion has resolved, but 
moderate enlargement of the cardiac silhouette remains, 
exaggerated by very low lung volumes.  
There is no mediastinal venous engorgement to suggest elevated 
central venous pressure.  Pleural effusions are likely, but not 
large.  No pneumothorax. 

DISCHARGE LABS (most recent since discharge):
==============================================
___ 11:10AM BLOOD WBC-7.0 RBC-4.24* Hgb-10.1* Hct-33.6* 
MCV-79* MCH-23.8* MCHC-30.1* RDW-15.3 RDWSD-43.6 Plt ___
___ 11:10AM BLOOD ___ PTT-31.8 ___
___ 11:10AM BLOOD Glucose-92 UreaN-20 Creat-0.7 Na-138 
K-4.4 Cl-101 HCO3-21* AnGap-20
___ 11:10AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with history of developmental delay who 
presented to an OSH with abdominal pain was found to have a 
large pericardial effusion on CT Abd/Pelvis, transferred to 
___ for further management.

#Pericardial effusion/Pericarditis: Patient initially presented 
with abdominal pain with finding of pericardial effusion as 
incidental finding. Unclear if symptoms are related to effusion, 
however, as patient with limited ability to express himself 
clearly due to developmental delay. He underwent 
pericardiocentesis with findings consistent with 
inflammatory/bloody output. Serial TTE post-procedure showed 
persistent, but much improved and stable pericardial fluid as 
well as possible constrictive physiology. He also had positive 
inflammatory markers (CRP/ESR). Extensive work-up did not reveal 
clear etiology with work-up negative for TB, thyroid 
dysfunction, malignancy, and infection intrinsic to pericardial 
fluid. Most likely explanation would be that patient had 
pneumonia (as below), triggering para-pneumonic pericarditis and 
effusion with subsequent heart failure as a result of effusion 
and possible constriction. He was diuresed intermittently with 
Lasix while ___ the CCU and started on colchicine therapy for 
planned 90 days. He was evaluated by c-surg and after discussion 
with patient's guardian (mother) and essential return to 
baseline functional status, it was decided not to pursue any 
invasive procedures such as pericardial stripping vs. window. 
After evaluation and treatment with physical therapy, he was 
discharged back to his home facility.

#Hypervolemia: Patient had low albumin, constrictive physiology 
and lower extremity edema, bilateral pleural effusions, and 
elevated CVP on admission. This was felt to be due to acute 
inflammation (leading to low albumin) and effusive/constrictive 
physiology, treated with Lasix while ___ the ICU. He was 
euvolemic at discharge off any maintenance diuretics.

#Pleural effusions: Given extensive work-up (detailed above), 
patient was noticed to have large pleural effusions likely due 
to para-pneumonic inflammation and volume overload. He underwent 
U/S guided drainage of his left-sided effusion (exudative) 
without clear signs of infection with ___ during this admission 
and improvement noted on subsequent imaging.

#HCAP: Patient was admitted with fever and pulmonary 
infiltrates, and overall picture that was felt to be consistent 
with pneumonia. He was treated with course of 
vancomycin/cefepime/azithro as such. Unfortunately, only 
positive growth from BAL and cultures from multiple sources was 
Gamella from blood (per ID felt to be likely contaminant). His 
respiratory status improved to baseline at time of discharge.

#Rash: During this admission, patient noted to have rash on back 
from b/l shoulders to top of iliac crests, diffuse erythematous 
plaques and papules with poorly demarcated borders covering most 
of back; no sloughing, vesicles or purpura, blanchable ___ 
nature. This was felt to be possible heat rash or possible drug 
effect. However, no concerning findings c/w SJS/TEN or 
significant eosinophilia on lab work. This self resolved with 
mobilization from the bed, prior to discharge.

#Hypoxic respiratory failure: The patient was initially 
intubated and sedated prior to admission due to report of 
hypoxia and agitation, which would have potentially complicated 
pericardial drainage. He was found as above to have pneumonia, 
pleural effusions, pericardial effusion, and 
atelectasis/incomplete collapse of bilateral lower lobes. CTA 
chest also showed no signs of PE. He was extubated with 
treatment of his multiple conditions as above on ___ and 
quickly was weaned to room air prior to discharge.

#Bradycardia: While intubated, patient had multiple episodes of 
bradycardia with possible junctional rhythm, never lasting more 
than seconds to a minute. These were all felt to be vagal ___ 
nature as they occurred ___ the setting of bladder scan, trach 
adjustment, and ventilation changes. He was monitor closely on 
tele without further episodes post-discharge.

#Anemia: Baseline H/H 13.2-___-40. Iron studies c/w slight 
anemia of chronic disease. Has been low likely because of 
hemodilution ___ the setting of IVF. His H&H improved with 
supportive care.

#Malnutrition: He had low albumin possibly due to acute 
inflammation/illness and prolonged intubation. He did receive 
tube feeds while intubated and was quickly restarted on regular 
diet prior to discharge.

#Coagulopathy: INR 1.2 on admission, today 1.7. Unknown 
etiology. ___ malnutrition, liver dysfunction, medication 
induced. This was most likely due to malnutrition and vitamin K 
dysfunction as INR improved quickly after initiation of 
nutrition.

#Seizures (chronic): Continued on home Depakote 500 mg BID

#Developmental delay/behavioral issues (chronic): Continued 
during hospitalization on home Seroquel, trazodone, and celexa.

TRANSITIONAL ISSUES:
- Colchicine for 3 month course for possible pericarditis (Day 1 
- ___
- Outpatient cards f/u ___ ___ weeks
- Repeat TTE ___ ___ weeks before cardiology appointment to 
assess for pericardial fluid reaccumulation
- Decision made not to pursue pericardial stripping vs. 
pericardial window placement given ability to return to baseline 
functional status. Can consider ___ the future if recurrent 
pericardial effusion
-During work-up for cause of pericardial effusion, patient had 
negative Quantiferon Gold assay for TB

CODE STATUS: FULL CODE
CONTACT: ___ (mother) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 300 mg PO QHS 
2. Divalproex (DELayed Release) 500 mg PO BID 
3. Citalopram 40 mg PO DAILY 
4. QUEtiapine Fumarate 150 mg PO QAM 
5. TraZODone 100 mg PO QHS 
6. TraZODone 50 mg PO QAM 
7. Vitamin D ___ UNIT PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Oyster Shell Calcium 500 (calcium carbonate) 500 mg calcium 
(1,250 mg) oral DAILY 
10. Sodium Fluoride 1.1% (Dental Gel) 1 Appl TP BID 

 
Discharge Medications:
1.  Colchicine 0.6 mg PO BID Duration: 90 Days 
Please continue for 90 days. Day 1 = ___. 
RX *colchicine 0.6 mg 1 tablet(s) by mouth twice a day Disp 
#*180 Tablet Refills:*0 
2.  Citalopram 40 mg PO DAILY  
3.  Divalproex (DELayed Release) 500 mg PO BID  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Oyster Shell Calcium 500 (calcium carbonate) 500 mg calcium 
(1,250 mg) oral DAILY  
6.  QUEtiapine Fumarate 150 mg PO QAM  
7.  QUEtiapine Fumarate 300 mg PO QHS  
8.  Sodium Fluoride 1.1% (Dental Gel) 1 Appl TP BID  
9.  TraZODone 100 mg PO QHS  
10.  TraZODone 50 mg PO QAM  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Pericarditis
Pericardial Effusion
Health Care Associated Pneumonia
Pleural Effusion
Hyperkalemia
Hypoxic Respiratory Failure

SECONDARY DIAGNOSES:
Developmental Delay
Seizure disorder

 
Discharge Condition:
Mental Status: Confused - sometimes. At baseline the patient is 
AOx1 and he has returned to baseline on discharge.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. Patient is legally 
blind so requires assistance at baseline.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ because you 
were having stomach pain and it was discovered that you had 
fluid around your heart.

What was found ___ the hospital?
- Your had fluid around your heart, called a pericardial 
effusion.
- Your had fluid ___ your lungs, called a pleural effusion.
- You had an infection ___ your lungs, called pneumonia.
- You had high levels of potassium ___ your blood, called 
hyperkalemia.
- You had difficulty breathing and were on a mechanical 
ventilator for 1 week.

What was done for you ___ the hospital?
- The fluid around your heart was causing problems with pumping. 
You went to the catheterization lab. A drain was placed to 
remove fluid. After two days, most of the fluid was gone and the 
drain was pulled out. The fluid was sent for laboratory studies 
to look for a cause like infection or disease, but no cause was 
found. We continued to monitor your heart with pictures 
(transthoracic echocardiograms and chest xrays). You were given 
oral medications to keep the combat the inflammation around your 
heart. The fluid did not reaccumulate and you are safe to go 
home with follow-up with your doctor.
- Samples of the fluid ___ your lungs were taken by two methods. 
The first was a bronchoscopy, where a tube with a video camera 
was placed down your throat to look inside your lungs. The 
second method was a pleurocentesis, where a needle was put ___ 
your side and the fluid was pulled off. These samples were sent 
to the laboratory for studies to look for a cause. We found 
indicators of infection, but no specific bacterium that was 
likely to cause it. You had chest x-rays to watch for 
reaccumulation, and that did not happen.
- For your infection, you were see by specialists from the 
infectious diseases and pulmonary divisions. You most likely had 
a pneumonia. You received antibiotics for several days. You had 
a fever with this infection. You received acetaminophen. You had 
your intake and output monitored to make sure you did not become 
dehydrated. Your symptoms improved and you are safe to go home. 
- Initial laboratory studies showed that you had high levels of 
potassium ___ your blood. You received fluids and diuresis at 
different points during your hospitalization. You had frequent 
electrocardiograms and laboratory studies to monitor for effects 
of high potassium. Your potassium level returned to normal. 
- You came to ___ on a mechanical ventilator to help your 
breathing while you were sick. You were on the ventilator for 
several days. You showed us you could breathe on your own, so we 
stopped the ventilator and you were able to breathe on your own. 
You did not require re-intubation.

What should you do when you go home?
- For the fluid around the heart, you should take a new 
medicine, called colchicine, described below.
- Follow-up with your primary care doctor.
- Ask your primary care doctor to schedule follow-up appointment 
and transthoracic echocardiogram with a cardiologist.

NEW MEDICATIONS
- Colchicine 0.6 mg by mouth ___ the morning and at night, every 
day. This medication is for your pericarditis. You should take 
it for 3 months, last dose ___.

Otherwise, you can continue taking the medications you had taken 
at home before coming to the hospital.
 
Followup Instructions:
___